US04291044
163 g (2.2 mol) of formic acid ethyl ester were added dropwise to a solution of 136 g of sodium ethylate in 1,500 ml of ethanol at 0° C. 420 g (2 mol) of 2,2-dimethyl-4-(4-fluorophenoxy)-butan-3-one were then slowly stirred in at 0° C. After a reaction time of 24 hours at 0° C., the mixture was allowed to warm to room temperature and was subsequently stirred at this temperature for a further 96 hours. The reaction mixture was poured onto 5,000 ml of ice-water and the organic phase was separated off by extracting with chloroform. Unreacted starting material could be isolated from this chloroform solution and re-used. The aqueous phase was acidified with 10% strength hydrochloric acid, while cooling, and the oil which separated out was taken up in chloroform. The chloroform phase was dried over sodium sulphate and concentrated by distilling off the solvent in vacuo. The oil which remained was distilled in vacuo. 170 g (83% of theory, relative to unreacted product) of 1-hydroxy-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one of boiling point 101°-102° C./0.6 mm Hg (nD20 =1.5132) were obtained.

reactant | formic acid ethyl ester | 2.2 mol, 163 g | C(C)OC=O | C3H6O2
reactant | sodium ethylate | 136 g | CC[O-].[Na+]
reactant | 2,2-dimethyl-4-(4-fluorophenoxy)-butan-3-one | 2 mol, 420 g | CC(C)(C(COC1=CC=C(C=C1)F)=O)C | C12H15FO2
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 1,500 ml | C(C)O | C2H6O
product | 1-hydroxy-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one | 170 g, 83% | OC=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)F | C13H15FO3
